US06265421B1
a) 7,8,9,10-Tetrahydro-1,3-dihydroxy-7-phenyl-6H-dibenzo[b,d]pyran-6-one
A solution of phloroglucinol (0.7 g) and 2-ethoxycarbonyl-3-phenylcyclohexanone (1.5 g) in ethanol was treated with dry HCl as described in example 1a. The product was first recrystallized from ethanol-water (1:1) and then triturated with ether. Yield 0.61 g.

reactant | phloroglucinol | 0.7 g | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
reactant | 2-ethoxycarbonyl-3-phenylcyclohexanone | 1.5 g | C(C)OC(=O)C1C(CCCC1C1=CC=CC=C1)=O | C15H18O3
reactant | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 7,8,9,10-Tetrahydro-1,3-dihydroxy-7-phenyl-6H-dibenzo[b,d]pyran-6-one | OC1=CC(=CC=2OC(C3=C(C21)CCCC3C3=CC=CC=C3)=O)O | C19H16O4
